US07858640B2
Preparation 76b 2-(2-chloro-4-cyclobutylcarbamoylbenzyl)-3-oxopentanoic Acid Ethyl Ester
A suspension of potassium tert-butoxide (0.34 g) in anhydrous tetrahydrofuran (15 mL) at 0° C. was treated with a mixture of tert-butanol (1.0 mL) and 3-oxopentanoic acid ethyl ester (038 mL). The mixture was stirred at 0° C. for 45 minutes and then a solution of 4-bromomethyl-3-chloro-N-cyclobutylbenzamide (0.67 g) in tetrahydrofuran (5.0 mL) was added and the resulting mixture heated at 70° C. for 24 hours. The mixture was cooled to room temperature, diluted with water and the tetrahydrofuran removed under reduced pressure. The residue was extracted with ethyl acetate and the combined extracts washed With saturated aqueous sodium chloride solution and dried over magnesium sulfate. The solvent was removed under reduced pressure and the residue purified by column chromatography on silica gel, eluting with a mixture of ethyl acetate and cyclohexane (1:5 by volume) to afford title compound, 0.44 g.

reactant | potassium tert-butoxide | 0.34 g | CC(C)([O-])C.[K+]
reactant | tert-butanol | 1.0 mL | C(C)(C)(C)O | C4H10O
reactant | 3-oxopentanoic acid ethyl ester | C(C)OC(CC(CC)=O)=O | C7H12O3
reactant | 4-bromomethyl-3-chloro-N-cyclobutylbenzamide | 0.67 g | BrCC1=C(C=C(C(=O)NC2CCC2)C=C1)Cl | C12H13BrClNO
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5.0 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-(2-chloro-4-cyclobutylcarbamoylbenzyl)-3-oxopentanoic Acid Ethyl Ester | C(C)OC(C(C(CC)=O)CC1=C(C=C(C=C1)C(NC1CCC1)=O)Cl)=O | C19H24ClNO4
